US05811459
4-[3-(2-Benzyloxyphenyl)propyl)benzoic acid
To a solution of 4-[3-(2-hydroxyphenyl)propyl]benzoate (1.0 g) in DMF (20 ml) was added potassium carbonate (0.76 g) and benzyl bromide (0.66 ml). The mixture was stirred for 18 hours, poured into water (100 ml) and ethyl acetate (100 ml). The ethyl acetate solution was washed with water (3×100 ml), dried (magnesium sulphate), filtered and evaporated. The residue was purified by subjecting to chromatography on silica gel using diethyl ether: hexane (1:9) as eluant. There was thus obtained methyl 4-[3-(2-benzyloxy-phenyl)propyl]benzoate (0.7 g) as an oil.

reactant | 4-[3-(2-hydroxyphenyl)propyl]benzoate | 1.0 g | OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)[O-])C=C1
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.66 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[3-(2-Benzyloxyphenyl)propyl)benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O3
